US05155130
A mixture of 6-hydroxy-2H-1-benzopyran-3-carboxaldehyde (25.0 g, 0.14 mol) and potassium carbonate (39.2 g, 0.28 mol) in 500 ml of DMF is treated with benzyl bromide (26.7 g, 0.16 mol). The mixture is stirred overnight at room temperature. Water is added and three extractions with dichloromethane are carried out. The extract is dried (MgSO4) and evaporated to dryness. The residue is crystallized from hot ethyl acetate to give 6-benzyloxy-2H-1-benzopyran-3-carboxaldehyde, m.p. 112°-114° C.

reactant | 6-hydroxy-2H-1-benzopyran-3-carboxaldehyde | 0.14 mol, 25.0 g | OC=1C=CC2=C(C=C(CO2)C=O)C1 | C10H8O3
reactant | potassium carbonate | 0.28 mol, 39.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 0.16 mol, 26.7 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 6-benzyloxy-2H-1-benzopyran-3-carboxaldehyde | C(C1=CC=CC=C1)OC=1C=CC2=C(C=C(CO2)C=O)C1 | C17H14O3
